US04548818
(a) Preparation of 6-amino-1-cyclobutyl-2,4-(1H,3H)-pyrimidinedione VIII
To a solution of 30 g (0.35 mol) cyanoacetic acid and 100 ml of acetic anhydride was added 36.1 g (0.32 mol) of cyclobutylurea. The solution was stirred at 60°-70° C. for 2 hours. After cooling, white crystals were filtered off and washed with ethanol. Yield 36.4 g (63%) (VII). This was suspended in 100 ml of hot water and 50 ml of 2N NaOH was added in portions so the solution the whole time was basic. The reaction mixture was refluxed for 20 minutes. After cooling, white crystals were filtered off. Yield 3.6 g (20%) (VIII) NMR.

reactant | cyanoacetic acid | 0.35 mol, 30 g | C(#N)CC(=O)O | C3H3NO2
reactant | cyclobutylurea | 0.32 mol, 36.1 g | C1(CCC1)NC(=O)N | C5H10N2O
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-amino-1-cyclobutyl-2,4-(1H,3H)-pyrimidinedione | NC1=CC(NC(N1C1CCC1)=O)=O | C8H11N3O2
